US07112638B2
Synthesis of chloro(2-methyl-3H-cyclopenta[a]naphthalen-3-yl)dimethylsilane
A 1.6 M n-BuLi solution in hexane (7.5 mL, 12 mmol) was added at −50° C. to a solution of 2-methyl-3H-cyclopenta[a]naphthalene (2.14 g, MW=180.25, 11.9 mmol) in 50 mL of ether. The resulting suspension was allowed to warm to room temperature and stirred for 45 min at the same temperature. Then the lithium suspension was cooled again to −70° C. and added of dichlorodimethylsilane (18 mmol, 2.2 mL). The reaction mixture was allowed to warm to room temperature and stirred overnight. The precipitate of lithium chloride was filtered, the filtrate was evaporated off to dryness and dried in vacuo. Yield 3.14 g (97%).

reactant | n-BuLi | 1.6 M | [Li]CCCC
reactant | hexane | 12 mmol, 7.5 mL | CCCCCC | C6H14
reactant | 2-methyl-3H-cyclopenta[a]naphthalene | 11.9 mmol, 2.14 g | CC=1CC=2C(=C3C=CC=CC3=CC2)C1 | C14H12
reactant | lithium | [Li] | Li
reactant | dichlorodimethylsilane | 18 mmol, 2.2 mL | Cl[Si](C)(C)Cl | C2H6Cl2Si
solvent | ether | 50 mL | CCOCC | C4H10O
product | chloro(2-methyl-3H-cyclopenta[a]naphthalen-3-yl)dimethylsilane | Cl[Si](C)(C)C1C(=CC=2C1=CC=C1C=CC=CC21)C | C16H17ClSi
